US09422271B2
A mixture of N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidine-4,5-diamine (350 mg, 1.19 mmol, 1.0 eq) and Ac2O (12 mL) was stirred at rt for 3 h and concentrated. The residue was dissolved in MeOH (3 mL). Sat. aqueous NaOH was added dropwise until pH=12 and stirred for 10 minutes. The final mixture was concentrated and purified by silica gel chromatography (hexane/EtOAc=10:1 as eluent)) to obtain target product N-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-2-phenylpyrimidin-5-yl)acetamide.

reactant | N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidine-4,5-diamine | 1.19 mmol, 350 mg, 1.0 eq | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1N)C1=CC=CC=C1 | C16H16N6
reactant | Ac2O | 12 mL | CC(=O)OC(=O)C | C4H6O3
product | N-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-2-phenylpyrimidin-5-yl)acetamide | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1NC(C)=O)C1=CC=CC=C1 | C18H18N6O
